US07989444B2
10-bromo-7-(1-methyl-3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
A mixture of 10-bromo-(3-chloro-1-methyl-propyl)-2-trifluoromethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5h][3]benzazepine hydrochloride (195 mg), 4-methyl-5-(2-methyl-5-quinolinyl)-2,4-dihydro-3H-1,2,4-triazole-3-thione (130 mg), triethylamine (0.148 ml) and sodium iodide (63 mg) in dry DMF (0.8 ml) was heated at 70° C. for 24 hours. The mixture was cooled to room temperature, diluted with ethyl acetate and washed with 5% NaHCO3. The organic phase was dried (Na2SO4) and concentrated. The residue was purified on silica gel (DCM/MeOH/NH4OH: 100/1.5/0.15). The obtained product was treated with HCl (1N/ether) affording the title compound as a colourless slightly hygroscopic solid (46 mg).

reactant | 10-bromo-(3-chloro-1-methyl-propyl)-2-trifluoromethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5h][3]benzazepine hydrochloride | 195 mg | Cl.BrC1=C2C(=C(C=3CCNCCC31)C(CCCl)C)N=C(O2)C(F)(F)F
reactant | 4-methyl-5-(2-methyl-5-quinolinyl)-2,4-dihydro-3H-1,2,4-triazole-3-thione | 130 mg | CN1C(NN=C1C1=C2C=CC(=NC2=CC=C1)C)=S | C13H12N4S
reactant | triethylamine | 0.148 ml | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 63 mg | [I-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
product | 10-bromo-7-(1-methyl-3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.BrC1=C2C(=CC=3CCN(CCC31)C(CCSC3=NN=C(N3C)C3=C1C=CC(=NC1=CC=C3)C)C)N=C(O2)C(F)(F)F | InChI=1S/C29H28BrF3N6OS.ClH/c1-16-7-8-20-21(5-4-6-22(20)34-16)26-36-37-28(38(26)3)41-14-11-17(2)39-12-9-18-15-23-25(24(30)19(18)10-13-39)40-27(35-23)29(31,32)33;/h4-8,15,17H,9-14H2,1-3H3;1H
